US04673686
N-(1-cyclohexyl-methyl-3-pyrrolidinyl)-2-methoxy-4-amino-5-chlorobenzamide
8 g of 2-methoxy-4-amino-5-chlorobenzoic acid (0.040 mole), 50 ml of acetone and 4 g of triethylamine (0.040 mole) are placed in a 250 ml flask fitted with an agitator, a thermometer and a dropping funnel. The suspension is cooled and 5.5 g of isobutyl chloroformate (0.040 mole) is added drop by drop between 0° and +5° C. The reaction medium is agitated for 45 minutes with the temperature kept between 0° and +5° C., then 8 g of 1-cyclohexyl-methyl-3-aminopyrrolidine (0.044 mole) is added drop by drop. The reaction is allowed to continue for 2 hours at room temperature, then 80 ml of water is added and the acetone is expelled. The product crystallises in the residual water. It is filtered and re-dissolved in 150 ml of water and 5 ml of concentrated hydrochloric acid. The solution is filtered with charcoal and the filtrate is made alkaline with 10 ml of ammonia (density 0.91). The viscous precipitate is decanted and dissolved in 80 ml of water and 5 ml of hydrochloric acid. The product is dissolved and the hydrochloride is precipitated very rapidly. It is drained, washed with water and dried at 50° C. 10.4 g of product is obtained and is dissolved hot in 100 ml of water. The solution is rendered alkaline with 10 ml of soda lye. The oily precipitate is crystallised by cooling. It is drained, washed with water and dried in an oven at 50° C.

reactant | 2-methoxy-4-amino-5-chlorobenzoic acid | 0.040 mole, 8 g | COC1=C(C(=O)O)C=C(C(=C1)N)Cl | C8H8ClNO3
reactant | triethylamine | 0.040 mole, 4 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.040 mole, 5.5 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-cyclohexyl-methyl-3-aminopyrrolidine | 0.044 mole, 8 g | C1(CCCCC1)N1C(C(CC1)N)C | C11H22N2
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 80 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-(1-cyclohexyl-methyl-3-pyrrolidinyl)-2-methoxy-4-amino-5-chlorobenzamide | 10.4 g | C1(CCCCC1)N1C(C(CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O)C | C19H28ClN3O2
